US04221814
A solution of 1.5 g of 2-(4-carboxybenzamido)-4-aminobenzoic acid in 50 ml of pyridine was mixed with 3.2 g of isobutyroyl chloride and the mixture was heated at 50° to 60° C. for a period of 2 hours. The reaction mixture was further mixed with a solution of 4 g of sodium hydroxide in 20 ml of water and concentrated under vacuum. The residue was diluted with water and hydrochloric acid was used to adjust the pH of the dilution between 1 and 2. The precipitating crystal was filtered, washed with water and recrystallized from a solvent mixture of methanol and water to thereby produce 1.1 g of 2-(4-carboxybenzamido)-4-isobutyramidobenzoic acid having a melting point in the range of from 312° to 314° C. (decompose).

reactant | 2-(4-carboxybenzamido)-4-aminobenzoic acid | 1.5 g | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)N)C=C1 | C15H12N2O5
reactant | isobutyroyl chloride | 3.2 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 20 ml | O | H2O
product | 2-(4-carboxybenzamido)-4-isobutyramidobenzoic acid | 1.1 g | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)NC(C(C)C)=O)C=C1 | C19H18N2O6
